US07550474B2
i. N-[2-(Amidinoaminooxy)ethyl]-2-{3-[2-(3-chlorophenyl)-2,2-difluoroethylamino]-6-cyano-2-fluorophenyl}acetamide
A solution of TFA (7.5 mL, 97 mmol) and anisole (3.0 mL, 27.6 mmol) in DCM (23 mL) was added to N-[2-(N′,N″-bis(tert-butoxycarbonyl)amidinoaminooxy)ethyl]-2-{3-[(2,2-difluoro-2-(3-chlorophenyl)ethyl)amino]-6-cyano-2-fluorophenyl}acetamide (2.18 g, 3.26 mmol), as prepared in the preceding step, at room temperature. The dark yellow solution was stirred for 10 h, and then concentrated. The residue was subjected to flash chromatography (DCM/MeOH saturated with gaseous NH3; 95:5→90:10) to yield 1.286 g (84%) of the title compound as a white solid. 1H NMR (300 MHz, CD3OD) δ 7.57-7.55 (m, 1H), 7.51-7.40 (m, 3H), 7.27 (dd, J=8.6 Hz, 1.3 Hz, 1H), 6.77 (t, J=8.4 Hz, 1H), 3.93 (t, J=13.6 Hz, 2H), 3.80 (t, J=5.4 Hz, 2H), 3.74 (d, J=2.0 Hz, 2H), 3.43 (t, J=5.4 Hz, 2H). LC/MS (ESI) calcd for C20H21ClF3N6O2 (MH+) 469.1. found 469.2.

reactant | TFA | 97 mmol, 7.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | anisole | 27.6 mmol, 3.0 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | N-[2-(N′,N″-bis(tert-butoxycarbonyl)amidinoaminooxy)ethyl]-2-{3-[(2,2-difluoro-2-(3-chlorophenyl)ethyl)amino]-6-cyano-2-fluorophenyl}acetamide | 3.26 mmol, 2.18 g | C(C)(C)(C)OC(=O)N=C(N)N(OCCNC(CC1=C(C(=CC=C1C#N)NCC(C1=CC(=CC=C1)Cl)(F)F)F)=O)C(=O)OC(C)(C)C | C30H36ClF3N6O6
solvent | DCM | 23 mL | C(Cl)Cl | CH2Cl2
product | N-[2-(Amidinoaminooxy)ethyl]-2-{3-[2-(3-chlorophenyl)-2,2-difluoroethylamino]-6-cyano-2-fluorophenyl}acetamide | 1.286 g, 84% | C(N)(=N)NOCCNC(CC1=C(C(=CC=C1C#N)NCC(F)(F)C1=CC(=CC=C1)Cl)F)=O | C20H20ClF3N6O2
